US04282365
6,11-Dihydro-11-formamidodibenz[b,e]oxepin-2-carboxylic Acid
Add to a mixture of 1.77 gm. (5 mmole) of 6,11-dihydro-11-aminodibenz[b,e]oxepin-2-carboxylic acid in 5 ml. of 90% formic acid, 1.5 gm. of aceticformic anhydride* at 10° C. with stirring. After 1 hour allow the mixture to warm to room temperature and continue stirring for 3 hours. Remove the volatiles by evaporation in vacuo to obtain the title product.

reactant | 6,11-dihydro-11-aminodibenz[b,e]oxepin-2-carboxylic acid | 5 mmole | NC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)O | C15H13NO3
reactant | formic acid | C(=O)O | CH2O2
product | 6,11-Dihydro-11-formamidodibenz[b,e]oxepin-2-carboxylic Acid | C(=O)NC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)O | C16H13NO4
